US08791102B2
Proceeding as in Reference 5, but substituting 4-(4-fluorophenoxy)aniline and (S)-5-(benzyloxycarbonylamino)-2-(tert-butoxycarbonylamino)pentanoic acid, gave (S)-benzyl 4-amino-5-(4-(4-fluorophenoxy)phenylamino)-5-oxopentylcarbamate (1901 mg, 80%).

reactant | 4-(4-fluorophenoxy)aniline | FC1=CC=C(OC2=CC=C(N)C=C2)C=C1 | C12H10FNO
reactant | (S)-5-(benzyloxycarbonylamino)-2-(tert-butoxycarbonylamino)pentanoic acid | C(C1=CC=CC=C1)OC(=O)NCCC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C18H26N2O6
product | (S)-benzyl 4-amino-5-(4-(4-fluorophenoxy)phenylamino)-5-oxopentylcarbamate | 1901 mg, 80% | N[C@@H](CCCNC(OCC1=CC=CC=C1)=O)C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)F | C25H26FN3O4
